US07968587B2
(±)-(7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester
Under nitrogen, mix (±)-2-amino-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile (7.0 g, 35.5 mmol) with diisopropylethylamine (7.4 mL, 42.6 mmol) in CH2Cl2 (70 mL). Add isopropyl chloroformate (1.0 M in toluene, 42.6 mL, 42.6 mmol) and stir overnight at room temperature. Dilute with water (100 mL) and ethyl ether (50 mL), stir for 10 min and collect the solid. After drying, obtain 7.42 g (61%) of the title compound as a tan solid. MS (m/z): 284 (M+1), 282 (M−1).

reactant | (±)-2-amino-1,2,3,4-tetrahydro-cyclopenta[b]indole-7-carbonitrile | 35.5 mmol, 7.0 g | NC1CC2=C(NC=3C=CC(=CC23)C#N)C1 | C12H11N3
reactant | diisopropylethylamine | 42.6 mmol, 7.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropyl chloroformate | 42.6 mmol, 1.0 M, 42.6 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | (±)-(7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 7.42 g, 61% | C(C)(C)OC(NC1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C16H17N3O2
